* source XFRMMODEL_EX
.SUBCKT Subcircuit AC_CT AC_IN AC_SEC AC_SEC1 GND  
Kn_K1         L_Lpri L_Lsec1 
+ L_Lsec2    0.85 K1041T060_3E2A
R_R1         AC_IN N14421  0.01 TC=0,0 
L_Lpri         N14421 GND  5200  
L_Lsec2         AC_SEC AC_CT  271  
L_Lsec1         AC_SEC1 AC_CT  356  
R_R2         GND AC_CT  1G TC=0,0 
.ENDS
